US08227639B2
2-(Morpholin-4-yl)ethyl 4-chloro-3-(chlorosulfonyl)benzoate
To a solution of 4-chloro-3-(chlorosulfonyl)benzoyl chloride (1.0 g, 3.6 mmol) in DCM (10 ml) was added a solution of hydroxy ethyl morpholine (443 μl, 3.6 mmol) in DCM (1 ml). The reaction mixture was stirred for 12 h after which time no sulfonyl chloride was observed by LC-MS. Upon concentration of the crude reaction mixture a solid was isolated, which was trituated with ether to afford the desired compound as a brown solid. (1.54 g, 100%) IR (neat) vmax/cm−1 1724, 1174, 1450; 6H (500 MHz, DMSO-d6) 8.49 (1H, d, 1.8 Hz), 7.97 (1H, dd, 8.2, 1.9 Hz), 7.56 (1H, d, 8.2 Hz), 4.38-5.00 (2H, m), 3.88-4.07 (2H, m), 3.76-3.83 (2H, m), 3.56-3.62 (2H, m), 3.36-3.54 (2H, m), 3.14-3.28 (2H, m).

reactant | 4-chloro-3-(chlorosulfonyl)benzoyl chloride | 3.6 mmol, 1.0 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(=O)(=O)Cl | C7H3Cl3O3S
reactant | hydroxy ethyl morpholine | 3.6 mmol, 443 μl | OCCN1CCOCC1 | C6H13NO2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ether | CCOCC | C4H10O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-(Morpholin-4-yl)ethyl 4-chloro-3-(chlorosulfonyl)benzoate | ClC1=C(C=C(C(=O)OCCN2CCOCC2)C=C1)S(=O)(=O)Cl | C13H15Cl2NO5S
